US07723367B2
6-Methyl-2-(pyridin-3-yloxy)-nicotinonitrile
2-chloro-6-methyl-nicotinonitrile was reacted with pyridin-3-ol according to the method of Example 85A to provide the title compound. MS (DCI/NH3) m/z 212 (M+1)+.

reactant | 2-chloro-6-methyl-nicotinonitrile | ClC1=C(C#N)C=CC(=N1)C | C7H5ClN2
reactant | pyridin-3-ol | N1=CC(=CC=C1)O | C5H5NO
product | 6-Methyl-2-(pyridin-3-yloxy)-nicotinonitrile | CC1=NC(=C(C#N)C=C1)OC=1C=NC=CC1 | C12H9N3O
